US04795593
4,4,4-trinitro-1-Butanol
Crude 4,4,4-trinitrobutaldehyde (878 g, 4.24 mol) was dissolved in methanol (1000 mL) and cooled in an ice bath while NaBH4 (130.7 g 3.44 mol) was added portion-wise. The mixture was stirred at room temperature overnight under a nitrogen purge which removed much of the solvent. The thick suspension was hydrolyzed with 6N HCl (approx. 4 L) and the product extracted with CH2Cl2 (3×100 mL). The extracts were washed with water (1000 mL), saturated NaHCO3 (2×1000 mL), and water (1000 mL). The product solution was dried (MgSO4) and concentrated to yield 554 g (63%) of a yellow oil, n=1.4735 (19° C.). The infrared spectrum showed peaks at 3619, 3370, 2950, 2890, 1595, 1305, 1058 and 801 cm-1.

reactant | 4,4,4-trinitrobutaldehyde | 4.24 mol, 878 g | [N+](=O)([O-])C(CCC=O)([N+](=O)[O-])[N+](=O)[O-] | C4H5N3O7
reactant | NaBH4 | 3.44 mol, 130.7 g | [BH4-].[Na+]
solvent | methanol | 1000 mL | CO | CH4O
product | 4,4,4-trinitro-1-Butanol | 554 g, 63% | [N+](=O)([O-])C(CCCO)([N+](=O)[O-])[N+](=O)[O-] | C4H7N3O7
